US07405305B2
3-(5-Hydroxybenzofur-7-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione
Combine 3-(5-methoxybenzofur-7-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione (0.125 g, 0.24 mmol) and pyridine hydrochloride (2.2 g, 18-fold excess by weight) under nitrogen. Attach a heating mantle and heat to 190° C. for 45 min. Let cool to 20° C., then extract with ethyl acetate versus water. Wash with brine, dry organic layer over magnesium sulfate, filter and concentrate. Purification by column chromatography (5% methanol: dichloromethane) gives 0.085 g (70%) product. High Res. Mass Spec (m/z): Calcd 518.2080 found 518.2080.

reactant | 3-(5-methoxybenzofur-7-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.24 mmol, 0.125 g | COC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C1CCNCC1)=O)=O | C26H23N3O4
reactant | pyridine hydrochloride | 2.2 g | Cl.N1=CC=CC=C1
product | 3-(5-Hydroxybenzofur-7-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.085 g, 70% | OC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C1CCNCC1)=O)=O | C25H21N3O4
